US05359030
Tetrahydro-2-(12-bromododecanoxy)-2H pyran
To a solution of 12-bromo-1-dodecanol (1 mole) in dichloromethane containing pyridinium p-toluenesulfonate (P-TSA) is added dihydropyran (2 moles). The reaction mixture is stirred for 24 hours and then washed twice with water and dried over anhydrous MgSO4. The dichloromethane is removed under reduced pressure. If necessary the resulting product is purified by chromatography on silica gel.

reactant | 12-bromo-1-dodecanol | 1 mole | BrCCCCCCCCCCCCO | C12H25BrO
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydropyran | 2 moles | O1CCCC=C1 | C5H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Tetrahydro-2-(12-bromododecanoxy)-2H pyran | BrCCCCCCCCCCCCOC1OCCCC1 | C17H33BrO2
